US07432275B2
1. 6-Chloro-3′-trifluoromethyl-[2,2′]bipyridinyl-5-carbonitrile
Dissolve 6-amino-3′-trifluoromethyl-[2,2′]bipyridinyl-5-carbonitrile (1.0 g, 7.6 mmol) in 12 N HCl (20 mL) and cool to 0° C. Add NaNO2 (731 mg, 10.6 mmol) in portions over the course of 15 minutes. Allow the mixture to stir for 1 hour at 0° C. Add CuCl (2.24 g, 22.7 mmol), allow the mixture to warm to room temperature and stir for 1 hour. Pour the mixture onto ice water (100 mL) and extract with EtOAc (3×100 mL);. Dry the combined organic extracts over Na2SO4 and remove the solvent under reduced pressure. Purify the crude product by silica gel chromatography eluting with EtOAc/hexane (1:1) to yield the title compound. MS 284.04 (M+1).

reactant | 6-amino-3′-trifluoromethyl-[2,2′]bipyridinyl-5-carbonitrile | 7.6 mmol, 1.0 g | NC1=C(C=CC(=N1)C1=NC=CC=C1C(F)(F)F)C#N | C12H7F3N4
reactant | NaNO2 | 10.6 mmol, 731 mg | N(=O)[O-].[Na+]
reactant | HCl | 12 N, 20 mL | Cl | ClH
catalyst | CuCl | 22.7 mmol, 2.24 g | Cl[Cu]
product | 6-Chloro-3′-trifluoromethyl-[2,2′]bipyridinyl-5-carbonitrile | ClC1=C(C=CC(=N1)C1=NC=CC=C1C(F)(F)F)C#N | C12H5ClF3N3
